US09127003B2
Intermediate 72: tert-Butyl((cis)-1-(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazole-5-carbonyl)-6-methylpiperidin-3-yl)carbamate (Enantiomer of Intermediate 71 with Cis-Relative Stereochemistry)
To a solution of 2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazole-5-carboxylic acid (250 mg, 0.498 mmol) in DMF (2.3 mL) was added HATU (189 mg, 0.498 mmol) followed by DIPEA (0.174 mL, 0.996 mmol) and the reaction stirred at room temperature for 15 min. tert-Butyl(6-methylpiperidin-3-yl)carbamate (107 mg, 0.498 mmol) was added in DMF (2.3 mL) and the reaction stirred at rt for 16 h. Water (20 mL) and Et2O (20 mL) were added and the layers separated. The aqueous layer was extracted with further Et2O (2×20 mL) and the combined organics washed with water (2×20 mL), dried (Na2SO4) and concentrated in vacuo to afford a yellow oil. The crude product was purified by flash chromatography on silica (25 g) using a gradient of DCM→100% (20% MeOH/DCM)/DCM. The appropriate fractions were combined and evaporated under vacuum to give the product as a yellow oil. This material was purified further by high pH MDAP (Method E). Accordingly, the sample (160 mg) was dissolved in DMSO/MeOH (1:1, 1.8 mL) and injected in two batches. The appropriate fractions were collected and concentrated in vacuo to afford a white solid—tert-butyl(1-(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazole-5-carbonyl)-6-methylpiperidin-3-yl)carbamate (93 mg, 0.162 mmol, 32.6% yield). This material was sent for chiral resolution. 4 components were successfully resolved. However analysis showed only 1-2% of the presumed minor diastereomers. The mixture was submitted for chiral preparative chromatography (Chiral Method D) and only the two major components were collected:

reactant | 2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazole-5-carboxylic acid | 0.498 mmol, 250 mg | C1(CC1)CN1C(=CC=2C1=NC=CC2)C2=NC1=C(N2C)C(=CC(=C1)C(=O)O)OC | C21H20N4O3
reactant | HATU | 0.498 mmol, 189 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.996 mmol, 0.174 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-Butyl(6-methylpiperidin-3-yl)carbamate | 0.498 mmol, 107 mg | C(C)(C)(C)OC(NC1CNC(CC1)C)=O | C11H22N2O2
solvent | DMF | 2.3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2.3 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 20 mL | CCOCC | C4H10O
solvent | Water | 20 mL | O | H2O
product | tert-Butyl((cis)-1-(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazole-5-carbonyl)-6-methylpiperidin-3-yl)carbamate | C(C)(C)(C)OC(N[C@@H]1CN([C@@H](CC1)C)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC2CC2)C)C(=C1)OC)=O | C32H40N6O4
